2162-01-11 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - a-line placed
   - vent settings stable
   - levophed weaned off briefly but then had to be restarted
 MULTI LUMEN - START [**2162-1-10**] 06:39 PM
 ARTERIAL LINE - START [**2162-1-11**] 01:45 AM
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2162-1-10**] 08:48 PM
   Vancomycin - [**2162-1-10**] 09:25 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 3 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-1-10**] 08:48 PM
   Heparin Sodium (Prophylaxis) - [**2162-1-10**] 08:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-11**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 95 (81 - 95) bpm
   BP: 99/59(76) {91/57(71) - 109/69(86)} mmHg
   RR: 21 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.4 kg (admission): 70.4 kg
    CVP: 173 (8 - 215)mmHg
   Mixed Venous O2% Sat: 61 - 80
   Total In:
                                                                 10,492 mL
                                                                  2,789 mL
   PO:
   TF:
   IVF:
                                                                  2,492 mL
                                                                  2,789 mL
   Blood products:
   Total out:
                                                                  1,005 mL
                                                                    830 mL
   Urine:
                                                                  1,005 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,487 mL
                                                                  1,959 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 16 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: 7.24/35/130/14/-11
   Ve: 10.9 L/min
   PaO2 / FiO2: 217
   Physical Examination
   General Appearance: intubated, following simple commands, chronically
   ill appearing
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube, R sided palpable neck mass
   Lymphatic: Cervical adenopathy, large R axilla lymph node
   Cardiovascular: (PMI Normal), (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Bronchial: , Rhonchorous: throughout)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, redness on sacrum, no ulcers
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   154 K/uL
   11.5 g/dL
   196 mg/dL
   0.8 mg/dL
   14 mEq/L
   3.2 mEq/L
   18 mg/dL
   119 mEq/L
   144 mEq/L
   35.4 %
   25.4 K/uL
        [image002.jpg]
                            [**2162-1-10**]  06:45 PM
                            [**2162-1-10**]  07:03 PM
                            [**2162-1-10**]  11:47 PM
                            [**2162-1-11**]  01:32 AM
                            [**2162-1-11**]  01:59 AM
                            [**2162-1-11**]  06:24 AM
   WBC
   27.2
   25.4
   Hct
   38.6
   35.4
   Plt
   215
   154
   Cr
   1.0
   0.8
   TropT
   0.31
   0.31
   TCO2
   15
   16
   14
   16
   Glucose
   198
   196
   Other labs: PT / PTT / INR:18.8/47.3/1.7, CK / CKMB /
   Troponin-T:743/23/0.31, ALT / AST:120/209, Alk Phos / T Bili:66/0.5,
   Differential-Neuts:57.0 %, Band:36.0 %, Lymph:1.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:3.6 mmol/L, Albumin:2.7 g/dL, Ca++:6.4 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   74 y/o M with recent dx of neck cancer at OSH who presented from rehab
   with aggitation, bleeding foley site, hypotension and afib with RVR.
   Intubated at OSH and remains pressor dependent.  Likely cause is PNA as
   seen on CT scan of chest.
   .
   # Shock: likely septic based on respiratory failure and PNA seen on CT
   scan.  Unclear etiology but should be treated for HAP because of recent
   hospitalization, as well as for possible flu.  Other causes on the
   differential include cardiogenic shock as he has a troponin leak and
   some ST changes on EKG.  Could be adrenal insufficiency, but less
   likely.  Did receive 10 mg IV decadron at OSH.
   - continue levophed, neo and vasopressin; wean levophed as tolerated
   today; goal MAP >60
   - place a-line
   - follow lacates, central SVO2
   - fluid resuccitation overnight with CVP goal >8
   - PNA treatment for HAP with vanco/cefepime/levoflox
   - consider broader treatment for anerobes with flagyl
   - flu treatment with oseltamivir until ruled out
   .
   # PNA: treatment as above for HAP and flu.
   .
   # Hypoxic Respiratory Failure: likely secondary to pneumonia, did not
   tolerate wean of vent settings after arrival from the ED.  ABG showed
   mild hypoxia; now on AC 500/16, PEEP 8, FiO2 60%.
   - follow serial ABGs, adjust vent as needed
   - ARDS net criteria
   - sedation with fent/versed
   .
   # Afib with RVR: now in normal sinus rhythm; failed two attempts at
   cardioversion at OSH.  No hx of afib per family.
   - continue telemetry
   - no need for systemic anticoagulation at this time
   - consider amio if afib returns
   .
   # Troponin leak: in the setting of afib with RVR is likely secondary to
   demand ischemia.  Cards looked at EKG in the ED without seeing need for
   further anticoagulation.  Received ASA rectally.
   - trend CEs
   - if rising, consider heparin gtt (if hct's stable)
   .
   # Coffee Ground emesis: unclear etiology; not known if patient taking
   NSAIDs, but does have hx of etoh abuse.  S/p one unit PRBCs in the ED
   with appropriate bump.
   - Hct q6hrs
   - IV PPI [**Hospital1 7**]
   - GI consult
   - guiac stools and emesis
   .
   # Bleeding from foley: presented with aggitation and bleeding from
   foley, likely traumatic; urine draining clear but does have some blood
   at the meatus.
   - follow hcts
   - consider urology consult in AM
   .
   # Neck CA: newly diagnosed, will get records from OSH; unclear if
   treatment options are viable.  Will defer further treatment for now,
   has stable airway.
   - consider onc consult in AM
   .
   # Hypothyroidism: continue levoxyl
   .
   # Dementia: unclear baseline, although per family is conversant at
   baseline.  Wean sedation as possible.
   .
   # Hx of ETOH abuse: do not know when last drink was or if patient has
   hx of seizures or withdrawl.
   - versed for sedation
   - check LFTs
   .
   # PPX: SQ heparin, pneumoboots, PPI, bowel reg PRN
   # FEN: NPO for now
   # Access: CVL R IJ placed in ED [**1-10**]; PIVs
   # Communication: [**Name (NI) 5992**] [**Name (NI) 31**] HCP (see [**Name (NI) 2040**] for number)
   # Code: full confirmed with HCP
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2162-1-10**] 06:39 PM
   18 Gauge - [**2162-1-10**] 07:11 PM
   Arterial Line - [**2162-1-11**] 01:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-01-11 09:13:00 Physician Attending Progress Note
Chief Complaint: Pulmonary sepsis
   HPI:
    74yoM admitted with agitation and pulmonary sepsis from nursing
   facility.
   24 Hour Events:
   Currently on neo/vasopressin/levophed
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2162-1-10**] 08:48 PM
   Vancomycin - [**2162-1-10**] 09:25 PM
   Levofloxacin
 [**1-10**]
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 3 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-1-10**] 08:48 PM
   Heparin Sodium (Prophylaxis) - [**2162-1-10**] 08:48 PM
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2162-1-11**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 95 (81 - 95) bpm
   BP: 99/59(76) {91/57(71) - 109/69(86)} mmHg
   RR: 21 (17 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.4 kg (admission): 70.4 kg
   CVP: 8 (8 - 215)mmHg
   Mixed Venous O2% Sat: 61 - 80
   Total In:
                                                                 10,492 mL
                                                                  2,829 mL
   PO:
   TF:
   IVF:
                                                                  2,492 mL
                                                                  2,829 mL
   Blood products:
   Total out:
                                                                  1,005 mL
                                                                    830 mL
   Urine:
                                                                  1,005 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,487 mL
                                                                  1,999 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 28 cmH2O
   Plateau: 13 cmH2O
   SpO2: 99%
   ABG: 7.24/35/130/14/-11
   Ve: 9.5 L/min
   PaO2 / FiO2: 217
   Physical Examination
   Gen: intubated/sedated
   Chest:  Bronchial breath sounds at left base.  Scant crackles in LUL.
   CV: Regular/tachy
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   11.5 g/dL
   154 K/uL
   196 mg/dL
   0.8 mg/dL
   14 mEq/L
   3.2 mEq/L
   18 mg/dL
   119 mEq/L
   144 mEq/L
   35.4 %
   25.4 K/uL
        [image002.jpg]
                            [**2162-1-10**]  06:45 PM
                            [**2162-1-10**]  07:03 PM
                            [**2162-1-10**]  11:47 PM
                            [**2162-1-11**]  01:32 AM
                            [**2162-1-11**]  01:59 AM
                            [**2162-1-11**]  06:24 AM
   WBC
   27.2
   25.4
   Hct
   38.6
   35.4
   Plt
   215
   154
   Cr
   1.0
   0.8
   TropT
   0.31
   0.31
   TCO2
   15
   16
   14
   16
   Glucose
   198
   196
   Other labs: PT / PTT / INR:18.8/47.3/1.7, CK / CKMB /
   Troponin-T:743/23/0.31, ALT / AST:120/209, Alk Phos / T Bili:66/0.5,
   Differential-Neuts:57.0 %, Band:36.0 %, Lymph:1.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:3.6 mmol/L, Albumin:2.7 g/dL, Ca++:6.4 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
    1. Sepsis:  Likely pulmonary source; sputum with GPC in clusters.
       Remains on pressors.
   - Wean neo; plan to continue levophed/vasopressin with MAP > 65.  CVP 9
   -  Antibiotic coverage below
   - Ultrasound chest for effusion for source control
   - Goal CVP 8-12, volume challenge to assess for fluid responsiveness.
    2. Respiratory Failure: PNA, developing [**Doctor Last Name 11**] (P/F ratio: 210)
   - Change to ARDS ventilation aim for 6ml/kg, increase rate to maintain
   pH > 7.15
   - Currently requires volume for sepsis, when hemodynamics improve can
   diurese.
    3. HCAP
 suspect staph with gram-stain
   - Vancomycin, cipro, cefepime and await cultures.
   - r/o for influenza, though history not significant for viral prodrome
   and superinfection.
    4. Afib with RVR
   - s/p cardioversion attempt; currently in NSR and HR 80-90
   - Amio if recurrent afib
    5. +Troponin: likely troponin leak in setting of sepsis/possible
       demand
   - Repeat EKG
    6. Coffee ground emesis:  Stable HCT, no evidence of GIB
   - Rectal exam for melena
   - repeat HCT
   - PPI
   ICU Care
   Nutrition:  Start tube feeds today
   Prophylaxis:  Heparin SC, HOB/peridex/mouthcare, PPI (can switch to H2
   if HCT stable)
   Glycemic Control:  Follow FSG, not known DM.
   Lines:
   Multi Lumen - [**2162-1-10**] 06:39 PM
   18 Gauge - [**2162-1-10**] 07:11 PM
   Arterial Line - [**2162-1-11**] 01:45 AM
   Prophylaxis:
   DVT:  heparin SC
   Stress ulcer:  PPI (can change to PPI)
   VAP: HOB/peridex/mouth care
   ICU Consent - pending
   Communication:  Contact family today
   Code status:  Full Code
   Disposition :  Critically ill, remains in ICU
   Total time spent:   35 minutes of critical care time

2162-01-12 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Bleeding from oral met stopped with packing
   - Called PCP [**Known firstname 129**] [**Last Name (NamePattern1) 11854**] ([**Telephone/Fax (1) 11855**] re: oncology plan and left
   message with RN, never heard back
   - Ultrasound showed small right effusion (1 cm) and none on left
   - ARDSnet ventilation
   - Discussed code status with HCP: DNR.  ICU consented.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2162-1-10**] 08:48 PM
   Vancomycin - [**2162-1-11**] 08:00 AM
   Ciprofloxacin - [**2162-1-12**] 12:15 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Norepinephrine - 0.18 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-1-11**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2162-1-11**] 10:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-12**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.2
   HR: 89 (84 - 109) bpm
   BP: 106/53(74) {90/49(62) - 133/69(96)} mmHg
   RR: 18 (18 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.4 kg (admission): 70.4 kg
   Height: 70 Inch
    CVP: 5 (1 - 8)mmHg
   Total In:
                                                                  4,888 mL
                                                                    374 mL
   PO:
   TF:
   IVF:
                                                                  4,888 mL
                                                                    374 mL
   Blood products:
   Total out:
                                                                  2,015 mL
                                                                    515 mL
   Urine:
                                                                  2,015 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,873 mL
                                                                   -141 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 420 (420 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/34/161/19/-3
   Ve: 4.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   126 K/uL
   11.2 g/dL
   121 mg/dL
   0.6 mg/dL
   19 mEq/L
   4.2 mEq/L
   19 mg/dL
   112 mEq/L
   138 mEq/L
   32.3 %
   24.7 K/uL
        [image002.jpg]
                            [**2162-1-10**]  06:45 PM
                            [**2162-1-10**]  07:03 PM
                            [**2162-1-10**]  11:47 PM
                            [**2162-1-11**]  01:32 AM
                            [**2162-1-11**]  01:59 AM
                            [**2162-1-11**]  06:24 AM
                            [**2162-1-11**]  11:52 AM
                            [**2162-1-11**]  03:48 PM
                             [**2162-1-12**]  04:42 AM
                             [**2162-1-12**]  04:56 AM
   WBC
   27.2
   25.4
   24.7
   Hct
   38.6
   35.4
   32.9
   32.3
   Plt
   [**Telephone/Fax (3) 11856**]
   Cr
   1.0
   0.8
   0.7
   0.6
   TropT
   0.31
   0.31
   0.44
   TCO2
   15
   16
   14
   16
   16
   21
   Glucose
   198
   196
   130
   121
   Other labs: PT / PTT / INR:16.0/42.8/1.4, CK / CKMB /
   Troponin-T:289/14/0.44, ALT / AST:120/209, Alk Phos / T Bili:66/0.5,
   Differential-Neuts:57.0 %, Band:36.0 %, Lymph:1.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:2.4 mmol/L, Albumin:2.7 g/dL, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   74 y/o M with recent dx of neck cancer at OSH who presented from rehab
   with aggitation, bleeding foley site, hypotension and afib with RVR.
   Intubated at OSH and remains pressor dependent.  Likely cause is PNA as
   seen on CT scan of chest.
   .
   # Shock: likely septic based on respiratory failure and PNA seen on CT
   scan.  Unclear etiology but should be treated for HAP because of recent
   hospitalization, as well as for possible flu.  Other causes on the
   differential include cardiogenic shock as he has a troponin leak and
   some ST changes on EKG.  Could be adrenal insufficiency, but less
   likely.  Did receive 10 mg IV decadron at OSH.
   - continue levophed, neo and vasopressin; wean neo first as tolerated
   today; goal MAP >60
   - follow lacates, central SVO2
   - PNA treatment for HAP with vanco/cefepime and change levoflox to
   cipro for better GN coverage
   - flu treatment with oseltamivir until ruled out
   .
   # PNA: treatment as above for HAP and flu.
   .
   # Hypoxic Respiratory Failure: likely secondary to pneumonia, did not
   tolerate wean of vent settings after arrival from the ED.
   - follow serial ABGs, adjust vent as needed
   - ARDS net criteria
   - sedation with fent/versed
   .
   # Afib with RVR: now in normal sinus rhythm; failed two attempts at
   cardioversion at OSH.  No hx of afib per family.
   - continue telemetry
   - no need for systemic anticoagulation at this time
   - consider amio if afib returns
   .
   # Troponin leak: in the setting of afib with RVR is likely secondary to
   demand ischemia.  Cards looked at EKG in the ED without seeing need for
   further anticoagulation.  Received ASA rectally.
   - trend CEs
   - if rising, consider heparin gtt (if hct's stable)
   .
   # Coffee Ground emesis: unclear etiology; not known if patient taking
   NSAIDs, but does have hx of etoh abuse.  S/p one unit PRBCs in the ED
   with appropriate bump.
   - Hct q6hrs
   - IV PPI [**Hospital1 7**]
   - GI consult
   - guiac stools and emesis
   - if hct stable, start TFs
   .
   # Bleeding from foley: presented with aggitation and bleeding from
   foley, likely traumatic; urine draining clear but does have some blood
   at the meatus.
   - follow hcts
   - consider urology consult in AM
   .
   # Neck CA: newly diagnosed, will get records from OSH; unclear if
   treatment options are viable.  Will defer further treatment for now,
   has stable airway.
   - consider onc consult in AM
   .
   # Hypothyroidism: continue levoxyl
   .
   # Dementia: unclear baseline, although per family is conversant at
   baseline.  Wean sedation as possible.
   .
   # Hx of ETOH abuse: do not know when last drink was or if patient has
   hx of seizures or withdrawl.
   - versed for sedation
   - LFTs show mild transaminitis
   .
   # PPX: SQ heparin, pneumoboots, PPI, bowel reg PRN
   # FEN: NPO for now
   # Access: CVL R IJ placed in ED [**1-10**]; PIVs
   # Communication: [**Name (NI) 5992**] [**Name (NI) 31**] HCP (see [**Name (NI) 2040**] for number)
   # Code: full confirmed with HCP
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2162-1-10**] 06:39 PM
   18 Gauge - [**2162-1-10**] 07:11 PM
   Arterial Line - [**2162-1-11**] 01:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2162-01-12 11:54:00 Physician Attending Progress Note
HPI:
   74yoM from facility with lobar PNA, sepsis, and respiratory failure.
   24 Hour Events:
   Packed oral lesion and improved bleeding.
   Small right-sided effusion by bedside ultrasound.
   DNR per family discussion.
   Afebrile overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2162-1-10**] 08:48 PM
   Ciprofloxacin - [**2162-1-12**] 12:15 AM
   Vancomycin - [**2162-1-12**] 08:00 AM
   Oseltamivir
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-1-12**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2162-1-12**] 08:00 AM
   Peridex
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2162-1-12**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 86 (80 - 99) bpm
   BP: 102/51(71) {91/49(62) - 133/69(96)} mmHg
   RR: 22 (18 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.4 kg (admission): 70.4 kg
   Height: 70 Inch
   CVP: 7 (1 - 7)mmHg
   Total In:
                                                                  4,888 mL
                                                                    647 mL
   PO:
   TF:
   IVF:
                                                                  4,888 mL
                                                                    647 mL
   Blood products:
   Total out:
                                                                  2,015 mL
                                                                    805 mL
   Urine:
                                                                  2,015 mL
                                                                    805 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,873 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 420 (420 - 420) mL
   Vt (Spontaneous): 409 (409 - 409) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 23
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 60
   RSBI Deferred: No Spon Resp
   PIP: 6 cmH2O
   Plateau: 20 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/35/107/19/-1
   Ve: 9 L/min
   PaO2 / FiO2: 268
   Physical Examination
   Gen: Somnolent, flutters eyes to voice, does not follow commands
   Chest: Clear lungs anteriorly, bronchial breath sounds improving
   CV: RRR
   Abd: s/nt/nd
   Ext: no edema
   Labs / Radiology
   11.2 g/dL
   126 K/uL
   121 mg/dL
   0.6 mg/dL
   19 mEq/L
   4.2 mEq/L
   19 mg/dL
   112 mEq/L
   138 mEq/L
   32.3 %
   24.7 K/uL
        [image002.jpg]
                            [**2162-1-10**]  07:03 PM
                            [**2162-1-10**]  11:47 PM
                            [**2162-1-11**]  01:32 AM
                            [**2162-1-11**]  01:59 AM
                            [**2162-1-11**]  06:24 AM
                            [**2162-1-11**]  11:52 AM
                            [**2162-1-11**]  03:48 PM
                             [**2162-1-12**]  04:42 AM
                             [**2162-1-12**]  04:56 AM
                             [**2162-1-12**]  08:47 AM
   WBC
   25.4
   24.7
   Hct
   35.4
   32.9
   32.3
   Plt
   154
   126
   Cr
   0.8
   0.7
   0.6
   TropT
   0.31
   0.44
   TCO2
   15
   16
   14
   16
   16
   21
   22
   Glucose
   196
   130
   121
   Other labs: PT / PTT / INR:16.0/42.8/1.4, CK / CKMB /
   Troponin-T:289/14/0.44, ALT / AST:120/209, Alk Phos / T Bili:66/0.5,
   Differential-Neuts:57.0 %, Band:36.0 %, Lymph:1.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Micro: viral panel negative
   Sputum ([**1-10**]): GPCs in clusters, culture pending
   Blood cultures: negative
   CXR: improving airspace disease
   Assessment and Plan
   74yoM with pulmonary sepsis, overall improving in terms of respiratory
   failure and shock.
   1.  Respiratory failure secondary to PNA:
   - Tolerating SBT in terms of ventilation and oxygenation.  Minimal
   secretions.  Improving CXR, fevers, etc.
   - Primary barriers to extubation include mental status with
   encephalopathy (likely in setting of infection/ICU) and moderate
   secretions.
   - will have ENT evaluate upper-airway lesion with head and neck CA
   2. Shock: pressors weaning down, WBC resolving.
   - Wean levophed as tolerates, d/c vasopressin if levophed off.
   3.  ID:  Suspect HCAP
   - plan complete course of vancomycin/cefepime
   - d/c cipro/osteltamivir
   4. Neuro: toxic-metabolic encephalopthy
   - follow mental status off sedation
   Remainder of plan per resident progress note.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  follow FSG, currently glucose < 150
   Lines:
   Multi Lumen - [**2162-1-10**] 06:39 PM
   18 Gauge - [**2162-1-10**] 07:11 PM
   Arterial Line - [**2162-1-11**] 01:45 AM
   Prophylaxis:
   DVT: heparin/teds/boots
   Stress ulcer:  DVT
   VAP: HOB/peridex/mouthcare
   Communication:  Will update family today
   Code status: DNR (do not resuscitate)
   Disposition : Critically ill, remains in ICU
   Total time spent:  35minutes CCT

2162-01-13 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2162-1-12**] 08:10 PM
 INVASIVE VENTILATION - STOP [**2162-1-13**] 05:20 AM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2162-1-13**] 05:29 AM
   ENT came to look but could not see anything w/ ETT in place
   Discussed onc care w/ his oncologist [**First Name8 (NamePattern2) 787**] [**Last Name (NamePattern1) 6627**] at NWH. They were
   planning to start radonc this week possibly w/ some chemo vs. hospice.
   There was no definitive e/o mets but some lung nodules that he needs a
   PET scan for.
   Rectal exam negative for gross blood.
   Self extubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2162-1-12**] 12:15 AM
   Cefipime - [**2162-1-12**] 07:30 PM
   Vancomycin - [**2162-1-12**] 09:48 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-1-12**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2162-1-12**] 10:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-13**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 75 (69 - 99) bpm
   BP: 127/62(88) {93/45(62) - 128/63(90)} mmHg
   RR: 20 (20 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.4 kg (admission): 70.4 kg
   Height: 70 Inch
    CVP: 3 (2 - 7)mmHg
   Total In:
                                                                  1,260 mL
                                                                     85 mL
   PO:
   TF:
                                                                    200 mL
                                                                      1 mL
   IVF:
                                                                  1,060 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    530 mL
   Urine:
                                                                  1,760 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -500 mL
                                                                   -445 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 389 (380 - 468) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 60
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.40/35/107/24/-1
   Ve: 9.2 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: chronically ill appearing
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, R sided
   palpable neck mass with erosion into oral cavity
   Lymphatic: Cervical adenopathy, large R axilla lymph node
   Cardiovascular: RRR nl m/r/g
   Respiratory / Chest: rhonchi.  Diminished at bases
   Abdominal: Soft, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Labs / Radiology
   103 K/uL
   10.1 g/dL
   107 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.4 mEq/L
   14 mg/dL
   110 mEq/L
   140 mEq/L
   30.0 %
   16.1 K/uL
        [image002.jpg]
                            [**2162-1-10**]  11:47 PM
                            [**2162-1-11**]  01:32 AM
                            [**2162-1-11**]  01:59 AM
                            [**2162-1-11**]  06:24 AM
                            [**2162-1-11**]  11:52 AM
                            [**2162-1-11**]  03:48 PM
                             [**2162-1-12**]  04:42 AM
                             [**2162-1-12**]  04:56 AM
                             [**2162-1-12**]  08:47 AM
                             [**2162-1-13**]  02:52 AM
   WBC
   25.4
   24.7
   16.1
   Hct
   35.4
   32.9
   32.3
   30.0
   Plt
   154
   126
   103
   Cr
   0.8
   0.7
   0.6
   0.5
   TropT
   0.31
   0.44
   TCO2
   16
   14
   16
   16
   21
   22
   Glucose
   196
   130
   121
   107
   Other labs: PT / PTT / INR:13.6/34.6/1.2, CK / CKMB /
   Troponin-T:289/14/0.44, ALT / AST:120/209, Alk Phos / T Bili:66/0.5,
   Differential-Neuts:57.0 %, Band:36.0 %, Lymph:1.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.3 mg/dL
   Imaging: CXR
   Microbiology:  GRAM STAIN (Final [**2162-1-12**]): NO MICROORGANISMS SEEN.
   Flu culture: pending, DFA negative
   Assessment and Plan
 CANCER (MALIGNANT NEOPLASM), OTHER
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   74 y/o M with metastatic neck cancer who presented with pnuemosepsis,
   aggitation, bleeding foley and mouth, and afib with RVR.  Intubated at
   OSH and remains pressor dependent.  Likely cause is PNA as seen on CT
   scan of chest.
   .
   # Shock: Improving.  Levophed weaned down to 0.08mcg/kg/min and
   2.4units  vasopressin
   - d/c vasopressin and continue to wean norepinephrine
   - PNA treatment for HAP with vanco/cefepime 8 days from [**12-10**] to [**1-18**]
   - off oseltamivir
   .
   # Hypoxic Respiratory Failure: likely secondary to pneumonia.
   Breathing comfortably s/p self extubation on [**1-13**], now on high-flow.
   - wean oxygen as tolerated.
   .
   # Afib with RVR: Sinus now
   - continue telemetry
   - not on systemic anticoagulation at baseline, can discuss risk/benefit
   with PCP.
   [**Name Initial (NameIs) **] consider amio if afib returns
   .
   # Coffee Ground emesis: Likely from bleeding throat CA.
   - D/C IV PPI
   - clears
   .
   # Bleeding from foley: Improved
   .
   # Neck CA: Discussed with primary oncologist [**First Name8 (NamePattern2) 11864**] [**Last Name (NamePattern1) 6627**] at NWH. CA
   involves nasopharynx and hypopharynx. They were planning for radiation
   therapy and if this was not possible probably hospice. There was some
   suggestion of mets to the lungs on CT but he has not had a PET yet.
   - will need close follow up with primary oncologist post discharge
   .
   # Hypothyroidism: continue levoxyl
   .
   # Dementia: High functioning baseline, although per family is
   conversant at baseline.  Wean sedation as possible.
   .
   # Hx of ETOH abuse: Has been in rehab for past several days
   .
   # PPX: SQ heparin, pneumoboots, PPI not indicated, bowel reg PRN
   # FEN: clears
   # Access:
   - Multi Lumen - [**2162-1-10**] 06:39 PM
   - 18 Gauge - [**2162-1-10**] 07:11 PM
   - Arterial Line - [**2162-1-11**] 01:45 AM
   # Communication: [**Name (NI) 5992**] [**Name (NI) 31**] HCP (see [**Name (NI) 2040**] for number)
   # Code:DNR confirmed with HCP
   # Dispo: ICU for now

2162-01-13 10:41:00 Physician Attending Progress Note
HPI:
    74yoM with head and neck cancer; intubated with PNA and sepsis.
   24 Hour Events:
   Self-extubated this morning.
   Pressors weaned.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2162-1-12**] 12:15 AM
   Cefipime - [**2162-1-12**] 07:30 PM
   Vancomycin - [**2162-1-12**] 09:48 PM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2162-1-12**] 07:30 PM
   Heparin Sodium (Prophylaxis) - [**2162-1-13**] 08:45 AM
   Other medications:
   Synthroid
   Peridex
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2162-1-13**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.1
   HR: 71 (69 - 93) bpm
   BP: 110/53(75) {93/45(62) - 128/63(90)} mmHg
   RR: 19 (19 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.4 kg (admission): 70.4 kg
   Height: 70 Inch
   CVP: 2 (2 - 7)mmHg
   Total In:
                                                                  1,260 mL
                                                                    107 mL
   PO:
   TF:
                                                                    200 mL
                                                                      1 mL
   IVF:
                                                                  1,060 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    775 mL
   Urine:
                                                                  1,760 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -500 mL
                                                                   -668 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 389 (380 - 468) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///24/
   Ve: 9.2 L/min
   Physical Examination
   Gen: Awake, responsive, NAD
   Chest: Crackles at R lower [**2-14**] and left base
   CV: RRR
   Abd: s/nt/nd
   Ext: no edema
   Labs / Radiology
   10.1 g/dL
   103 K/uL
   107 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.4 mEq/L
   14 mg/dL
   110 mEq/L
   140 mEq/L
   30.0 %
   16.1 K/uL
        [image002.jpg]
                            [**2162-1-10**]  11:47 PM
                            [**2162-1-11**]  01:32 AM
                            [**2162-1-11**]  01:59 AM
                            [**2162-1-11**]  06:24 AM
                            [**2162-1-11**]  11:52 AM
                            [**2162-1-11**]  03:48 PM
                             [**2162-1-12**]  04:42 AM
                             [**2162-1-12**]  04:56 AM
                             [**2162-1-12**]  08:47 AM
                             [**2162-1-13**]  02:52 AM
   WBC
   25.4
   24.7
   16.1
   Hct
   35.4
   32.9
   32.3
   30.0
   Plt
   154
   126
   103
   Cr
   0.8
   0.7
   0.6
   0.5
   TropT
   0.31
   0.44
   TCO2
   16
   14
   16
   16
   21
   22
   Glucose
   196
   130
   121
   107
   Other labs: PT / PTT / INR:13.6/34.6/1.2, CK / CKMB /
   Troponin-T:289/14/0.44, ALT / AST:120/209, Alk Phos / T Bili:66/0.5,
   Differential-Neuts:57.0 %, Band:36.0 %, Lymph:1.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, Ca++:7.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.3 mg/dL
   Micro: no new data
   CXR:  Unchanged
   Assessment and Plan
   74M with head and neck CA; admitted with sepsis secondary to HCAP; now
   off pressors and extubated.
   1.  PNA:  WBC trending down, afebrile.  Overall improving
   - Complete course of vancomycin/cefepime
   2.  Respiratory Failiure: Self-extubated this morning
   - Stable without hypoxemia.
   - Allow auto-diuresis
   3.  Shock: resolved
   - monitor BP
   - d/c aline/CVL if stable
   4.  Onc:  Followed at [**Location (un) 11868**] Hospital
   - will f/u as outpatient
   5. Thrombocytopenia: Dropped from 215 to 100 over course.  Partially
   dilutional with aggressive volume
   - d/c heparin for moment, check HIT
   ICU Care
   Nutrition: Speech and swallow consult given oropharyngeal lesion
   Glycemic Control:  Glucose < 150
   Lines:  Obtain peripheral lines; d/c CVL if stable BP and able to
   obtain PIV
   Multi Lumen - [**2162-1-10**] 06:39 PM
   Arterial Line - [**2162-1-11**] 01:45 AM
   Prophylaxis:
   DVT: heparin/boots/teds
   Stress ulcer:  d/c PPI
   VAP: Now extubated
   Communication:  Updated family and patient during rounds
   Code status: DNR (do not resuscitate), but would be re-intubated
   Disposition : If stable through morning, can transfer to floor
   Total time spent: 25 min